US05068435
Preparation of 2-methyl-isopropylaniline
The procedure of Example 3 was repeated using the fixed bed catalytic reactor, except that ortho toluidine or rather 2-methyl-aniline was alkylated with propylene in the presence of gamma-alumina. Table 3 below sets forth the reaction conditions and product selectivity.

reactant | ortho toluidine | NC=1C(=CC=CC1)C | C7H9N
reactant | 2-methyl-aniline | CC1=C(N)C=CC=C1 | C7H9N
reactant | propylene | C=CC | C3H6
reactant | gamma-alumina | [O-2].[O-2].[O-2].[Al+3].[Al+3]
product | 2-methyl-isopropylaniline | CC1=C(NC(C)C)C=CC=C1 | C10H15N
